US07671068B2
10. N-(3-Benzyloxy-1-methyl-propyl)-4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)-N-isopropyl-benzamide
Prepared from 4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)benzoyl chloride and rac-N-(3-benzyloxy-1-methyl-propyl)-N-isopropyl-amine hydrochloride as described for example 9.

reactant | 4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)benzoyl chloride | C(C)OC1=CC2=C(C(=N[C@@H]3CCN(C[C@H]23)C)C2=CC=C(C(=O)Cl)C=C2)C=C1OC | C23H25ClN2O3
reactant | rac-N-(3-benzyloxy-1-methyl-propyl)-N-isopropyl-amine hydrochloride | Cl.C(C1=CC=CC=C1)OCCC(C)NC(C)C
product | N-(3-Benzyloxy-1-methyl-propyl)-4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)-N-isopropyl-benzamide | C(C1=CC=CC=C1)OCCC(C)N(C(C1=CC=C(C=C1)C1=N[C@@H]2CCN(C[C@@H]2C2=C1C=C(C(=C2)OCC)OC)C)=O)C(C)C | C37H47N3O4
